US06140100
To a 300 mL Parr bottle were added 0.73 g of PdCl2 and 20 mL of 1:1 THF:EtOH. To this was added a solution of 2.43 g of (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-tert-butyl-4-hydroxybenzyl)morpholine in 80 mL of 1:1 THF:EtOH. The mixture was deoxygenated by bubbling nitrogen through for 10 min and was hydrogenated at 45 psi for 18 h. The vessel was purged with nitrogen, catalyst removed by filtration, and the filtrate concentrated in vacuo. The residue was partitioned between water and hexane. The aqueous solution was washed with four additional 50 mL portions of hexane, subjected to brief rotary evaporation to remove residual hexane, frozen and lyophilized to afford 1.47 g (92%) of 3-tert-butyl-L-tyrosine.HCl as a tan hygroscopic solid.

reactant | EtOH | CCO | C2H6O
reactant | (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-tert-butyl-4-hydroxybenzyl)morpholine | 2.43 g | O=C1O[C@@H]([C@@H](N[C@H]1CC1=CC(=C(C=C1)O)C(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | PdCl2 | 0.73 g | Cl[Pd]Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-tert-butyl-L-tyrosine | 1.47 g, 92% | C(C)(C)(C)C=1C=C(C[C@H](N)C(=O)O)C=CC1O | C13H19NO3
